US06319889B1
A mixture of 183 g phenylethyl alcohol, 980 g cyclohexane and 14 g AMBERLYST® 15 was heated to reflux (83° C.) with stirring. cyclooctene over a period of 3 hrs. After refluxing for 13 hrs at 83-89° C. the mixture was filtrated and concentrated on a rotatory evaporator at 45° C. and 25 mbar resulting in 233 g concentrate, containing 17% cyclooctene, 58% phenylethyl alcohol and 18% phenylethyl cyclooctyl ether and 2% diphenylethyl ether by GC analysis, which was vacuum distilled. The fraction with a boiling range of 89-103° C. at 0.7 mbar (13 g containing 7% phenylethyl alcohol, 80% phenylethyl cyclooctyl ether and 10% diphenylethyl ether by GC analysis) was subjected to flash column chromatography over silica with a 1:25 diethyl ether/pentane mixture, yielding 5 g phenylethyl cyclooctyl ether of 97.4% purity by GC analysis, nD20=1.5175.

reactant | phenylethyl alcohol | 183 g | C1(=CC=CC=C1)CCO | C8H10O
reactant | cyclooctene | C1=CCCCCCC1 | C8H14
solvent | cyclohexane | 980 g | C1CCCCC1 | C6H12
product | phenylethyl cyclooctyl ether | 5 g | C1(CCCCCCC1)OCCC1=CC=CC=C1 | C16H24O
